Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.57453207133
[C:1]#[C:2][C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6],2.06874775293
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][H:11]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.77125411407
[H:10].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:11][H:12]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12],-1.25466417149
[H:1][C:2]([H:3])=[C:4][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.0249412851
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[O:13][H:14],4.73092078248
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:10][H:11].[H:9],2.08367306393
[O:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2][C:10]([H:11])([H:12])[H:13],3.64787435269
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:8]([H:7])[C:9]([H:10])([H:11])[H:12],3.5183363365
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.50163399199
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-6.27513069374
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([O:11])([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:12])[H:13].[O:11],4.08383526478
[H:10].[H:1][C:2]([H:3])[C:4]#[C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.35137617543
[C:4]([H:5])([H:6])[H:7].[O:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.92591826754
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:5],3.1019293091500004
[H:1][C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2](=[C:3](/[C:4]([H:5])[H:6])[C:7]([H:8])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:9],2.30756034565
[C:4]([H:5])#[C:6][O:7][H:8].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6][O:7][H:8],-2.75709352928
[H:10].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8](=[O:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.5218111528
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],2.4522372000000003
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.23583041198
[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.8695757319
[O:1]=[C:2]=[C:3]([H:4])[C@:8]([C:5]([H:6])[H:7])([H:9])[O:10][H:11]>>[O:1]=[C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][H:11],-0.336759944861
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],-8.00447003297
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4][C:5]>>[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.15750349677
[C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.7129203766800005
[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2].[C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],5.00492616835
[C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-4.24147123997
